Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Desmoid tumor
 
Major Surgical or Invasive Procedure:
Cryoablation of residual desmoid tumor ___
 
History of Present Illness:
This is a ___ woman with a history of hepatitis C (last 
VL=430,000), large painful desmoid tumor of the abdominal wall 
s/p partial cryoablation on ___ who is now presenting for an 
overnight observation admission after cryoablation of residual 
desmoid tumor.

She was diagnosed with a rapidly enlarging, hard and painful 
desmoid tumor of the anterior abdominal wall in ___. The 
plan for her management was determined to be cryoablation with 
continued Sulindac. She underwent cryoablation of 60-70% of the 
tumor on ___. She had a postoperative overnight admission 
for pain and nausea.

Today she had cryoablation performed for the residual desmoid 
tumor. Per ___ she will be admitted overnight for pain and nausea 
control due to the necessity of admission after the same 
procedure last time. Per signout the CT/US-guided ablation was 
unremarkable.

On the floor today, she endorses post-procedural pain in the 
right side of the abdomen extending to the back. She says this 
pain is similar to the previous procedure she had, and is less 
sharp in quality compared to her tumor pain. She has had one 
brief episode of nausea that then passed, and has not vomited.  
On other review of systems, she denies headache, blurry vision, 
fevers, chills, shortness of breath, palpitations, chest pain, 
urinary frequency/urgency, diarrhea/constipation. 

 
Past Medical History:
___'s thyroiditis
Hep C (genotype 3 HCV, last VL = 433,000, FibroScan consistent 
with ___ fibrosis)
Desmoid Tumor
C-section x2
Lap cholecystectomy
 
Social History:
___
Family History:
She has a son with Down's syndrome. There is no family history 
of cancer as far as she can tell. She has a young daughter who 
is well. Her father died from an MI at age ___. Mother has mild 
hypertension.
 
Physical Exam:
====================
ADMISSION EXAM
====================
Vitals 97.6 119 / 58 63 16 100 RA
General: Patient lying quietly on side in no acute distress with 
PCA
HEENT: MMMs, no scleral icterus, clear oropharynx
Pulm: CTAB
CV: RRR, nl s1/s2, no m/r/g
Abdomen: tender in the right upper and right lower quadrant to 
palpation. Otherwise soft, nondistended. No rebound tenderness 
or guarding.
Ext: wwp no edema
GU: No foley

=======================
DISCHARGE EXAM
=======================
Vitals T97.7 HR 73 BP 125/62 O2 98/RA
General: Patient sitting up in bed in NAD
HEENT: MMMs, no scleral icterus, clear oropharynx
Pulm: CTAB
CV: RRR, nl s1/s2, no m/r/g
Abdomen: tender in the right upper and right lower quadrant to 
palpation. Tenderness improved compared to yesterday's exam. 
Otherwise soft, nondistended. No rebound tenderness or guarding.
Ext: wwp no edema
GU: No foley
 
Pertinent Results:
=============
ADMISSION LABS
===============
___ 07:05PM BLOOD WBC-12.5* RBC-4.66 Hgb-12.7 Hct-38.9 
MCV-84 MCH-27.3 MCHC-32.6 RDW-14.0 RDWSD-42.0 Plt ___
___ 07:05PM BLOOD Plt ___

================
DISCHARGE LABS
================
___ 06:13AM BLOOD Glucose-95 UreaN-11 Creat-0.5 Na-140 
K-4.1 Cl-104 HCO3-22 AnGap-18
___ 06:13AM BLOOD Calcium-8.5 Phos-4.2 Mg-2.0
___ 06:13AM BLOOD WBC-15.2* RBC-4.14 Hgb-11.2 Hct-35.3 
MCV-85 MCH-27.1 MCHC-31.7* RDW-13.8 RDWSD-42.9 Plt ___

================
IMAGING/STUDIES
================
CT Abdomen for guidance ___:  
Successful ultrasound and CT-guided cryoablation of the residual 
large right abdominal wall desmoid tumor. 

 
Brief Hospital Course:
SUMMARY: ___ h/o hepatitis C, desmoid tumor presents for pain 
and nausea control after repeat cryoablation by ___ for residual 
painful desmoid tumor. She was controlled overnight on IV 
Zofran, dilaudid PCA, and IV toradol for breakthrough. Her pain 
and nausea were well-controlled and she was transitioned to PO 
medications without issues. She was discharged in stable 
condition.

ACUTE ISSUES:
# s/p cryoablation: A US/CT-guided cryoablation of residual 
desmoid tumor was performed without complications on ___. 
She was then admitted overnight for pain and nausea control, 
given that she required overnight admission after her first 
cryoablation which was performed on ___. She was 
controlled overnight on IV Zofran, dilaudid PCA, and IV toradol 
for breakthrough. She was discharged on PO dilaudid q4h:prn 2mg 
for pain control, home prochlorperazine for nausea control, and 
senna/Colace for bowel regimen. Her home medications, including 
Sulindac and oxycodone, were held until followup with ___ in 
clinic in 1 week. 

# Hepatitis C: Genotype 3, last VL was 430,000, followed by Dr. 
___. No changes as inpatient.

TRANSITIONAL ISSUES:
- Home Sulindac, oxycodone-acetaminophen were held until 
followup with Interventional Radiology
- Patient discharged on 1 week supply of dilaudid 2mg q4h PRN 
pain
# CODE: Full 
# CONTACT: Husband/HCP: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN Pain 
- Moderate 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Sulindac 150 mg PO BID 
5. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth q4h:prn Disp #*40 
Tablet Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 
4.  Omeprazole 20 mg PO BID  
5.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
6. HELD- Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  This 
medication was held. Do not restart Acetaminophen until you talk 
to the ___ doctor
7. HELD- OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN 
Pain - Moderate  This medication was held. Do not restart 
OxyCODONE--Acetaminophen (5mg-325mg) until you talk to the ___ 
doctor
8. HELD- Sulindac 150 mg PO BID  This medication was held. Do 
not restart Sulindac until you talk to the ___ doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
===================
PRIMARY DIAGNOSIS
===================
Desmoid tumor

====================
SECONDARY DIAGNOSIS
====================
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after your cryoablation procedure on 
___. We controlled your nausea and pain using IV 
medications. You looked better on the next day and did well with 
medications by mouth, so you were discharged home.

Please make sure of the following:
- Attend your ___ clinic appointment on ___ at 2:30 ___
- Hold your usual home pain medications and take the medications 
as prescribed until your clinic appointment

We wish you all the best!
- Your ___ care team
 
Followup Instructions:
___